US03940395
Similarly, 4-chloro-2-(4-chlorophenyl)-6-[3-(morpholino)propylamino]-pyrimidine is reacted with p-ethylthiophenol to produce 2-(4-chlorophenyl)-4-(4-ethylphenylthio)-6-[3-(morpholino)propylamino]-pyrimidine.

reactant | 4-chloro-2-(4-chlorophenyl)-6-[3-(morpholino)propylamino]-pyrimidine | ClC1=NC(=NC(=C1)NCCCN1CCOCC1)C1=CC=C(C=C1)Cl | C17H20Cl2N4O
reactant | p-ethylthiophenol | C(C)C1=CC=C(C=C1)S | C8H10S
product | 2-(4-chlorophenyl)-4-(4-ethylphenylthio)-6-[3-(morpholino)propylamino]-pyrimidine | ClC1=CC=C(C=C1)C1=NC(=CC(=N1)SC1=CC=C(C=C1)CC)NCCCN1CCOCC1 | C25H29ClN4OS
